US07812183B2
2,2-Dimethyl-4-(2-phenyl-imidazol-1-yl)-3,4-dihydro-2H-pyrano[3,2-c]pyridin-3-ol (Compound #105)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-6-aza-cyclopropa[a]naphthalene and 2-phenyl-1H-imidazole as starting materials, the title compound was prepared as a pale yellow solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-6-aza-cyclopropa[a]naphthalene | CC1(C2C(C3=CN=CC=C3O1)O2)C | C10H11NO2
reactant | 2-phenyl-1H-imidazole | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
product | 2,2-Dimethyl-4-(2-phenyl-imidazol-1-yl)-3,4-dihydro-2H-pyrano[3,2-c]pyridin-3-ol | CC1(C(C(C=2C=NC=CC2O1)N1C(=NC=C1)C1=CC=CC=C1)O)C | C19H19N3O2
